US07326791B2
3-bromo-N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-3-methylsulfanylpropyl]4-(pyrrolidin-1-ylcarbonyl)benzamide
Prepared analogously to Example 1g from 3-bromo-4-(pyrrolidin-1-ylcarbonyl)benzoic acid, TBTU, diisopropylethylamine, and (S)-1-(5-chloro-1H-benzimidazol-2-yl)-3-methylsulfanylpropylamine in tetrahydrofuran. Yield: 60%; Rf value: 0.40 (silica gel; dichloromethane/ethanol=9:1); C23H24BrClN4O2S (535.89); mass spectrum: (M+H)+=535/537/539 (bromo-chlorine isotope).

reactant | 3-bromo-4-(pyrrolidin-1-ylcarbonyl)benzoic acid | BrC=1C=C(C(=O)O)C=CC1C(=O)N1CCCC1 | C12H12BrNO3
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (S)-1-(5-chloro-1H-benzimidazol-2-yl)-3-methylsulfanylpropylamine | ClC1=CC2=C(NC(=N2)[C@H](CCSC)N)C=C1 | C11H14ClN3S
reactant | bromo-chlorine | BrCl | BrCl
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dichloromethane ethanol | ClCCl.C(C)O
product | 3-bromo-N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-3-methylsulfanylpropyl]4-(pyrrolidin-1-ylcarbonyl)benzamide | Yield: 60% | BrC=1C=C(C(=O)N[C@@H](CCSC)C2=NC3=C(N2)C=CC(=C3)Cl)C=CC1C(=O)N1CCCC1 | C23H24BrClN4O2S
